US03962289
p-Benzamidophenol
A solution of p-hydroxyaniline (20 g.) in 200 ml. pyridine is treated with benzoic anhydride (20 g.). After 4 hr. at about 25° C., the mixture is concentrated under reduced pressure and the residue is taken up in 200 ml. of hot methanol and reprecipitated with 300 ml. of water. The product is recrystallized from hot acetonitrile as white crystals, 8.5 g., m.p. 218.0°-218.5° C.

reactant | p-hydroxyaniline | 20 g | OC1=CC=C(N)C=C1 | C6H7NO
reactant | benzoic anhydride | 20 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | p-Benzamidophenol | C(C1=CC=CC=C1)(=O)NC1=CC=C(C=C1)O | C13H11NO2
